US03962223
A mixture of 2.84 g of tert.-butyl DL cis 7-amino-3-ethyl-3-cepheme-4-carboxylate, 1.65 g of D(-) tartaric acid and 8 ml of methanol was heated to 60°C and the temperature was returned to room temperature and held at 18°C for 10 minutes. The mixture was vacuum filtered and the precipitate was washed with a 1-1 methanol-ether mixture and then with ether and dried. The residue was then dissolved in 25ml of aqueous 10% sodium bicarbonate and 15 ml of methylene chloride and the organic phase was decanted. The aqueous phase was reextracted with methylene chloride and the combined organic phases were dried over magnesium sulfate and evaporate to dryness. The residue was taken up in ether and the mixture was vacuum filtered to obtain 1.19 g of the L (+) enantiomorph of tert.-butyl cis 7-amino-3-ethyl-3-cepheme-4-carboxylate melting at 120°C and having a specific rotation [α]D20 = + 74° ± 2.5° (c = 0.5% in chloroform).

reactant | cis 7-amino-3-ethyl-3-cepheme-4-carboxylate | N[C@@H]1[C@@H]2N(C(=C(CS2)CC)C(=O)[O-])C1=O
reactant | tartaric acid | 1.65 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | methanol | 8 ml | CO | CH4O
product | tert.-butyl cis 7-amino-3-ethyl-3-cepheme-4-carboxylate | N[C@@H]1[C@@H]2N(C(=C(CS2)CC)C(=O)OC(C)(C)C)C1=O | C13H20N2O3S
